US05006543
A solution of lithium aluminium hydride in diethyl ether (1.0M, 69.4 ml) was added dropwise to a stirred solution of 4-(trifluoromethoxy)benzonitrile (6.0 g) in diethyl ether (120 ml) over 15 minutes. Water (2.66 ml), 10% sodium hydroxide solution (2.66 ml) and water (7.98 ml) were then added successively, dropwise. The precipitated solid was filtered off and washed with diethyl ether. The filtrate and washings were combined and evaporated under reduced pressure to give 4-(trifluoromethoxy)benzyl alcohol, N.M.R. in deuteriochloroform: δ2.3 (1H,s), 4.65 (2H,s), 7.2 (2H,d), 7.35 (2H,d).

reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(trifluoromethoxy)benzonitrile | 6.0 g | FC(OC1=CC=C(C#N)C=C1)(F)F | C8H4F3NO
reactant | Water | 2.66 ml | O | H2O
reactant | sodium hydroxide | 2.66 ml | [OH-].[Na+]
reactant | water | 7.98 ml | O | H2O
solvent | diethyl ether | 1.0M, 69.4 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 120 ml | C(C)OCC | C4H10O
product | 4-(trifluoromethoxy)benzyl alcohol | FC(OC1=CC=C(CO)C=C1)(F)F | C8H7F3O2
